US06235731B1
2) Synthesis of 1-(3-phenylpropan-1-yl)-4,4′-bipiperidine dihydrochloride
In 20 ml of methanol was dissolved 3.425 g (8.860 mM) of 1-tert-butoxycarbonyl-1′-(3-phenylpropan-1-yl)-4,4′-bipiperidine, followed by addition of 5 ml of concentrated hydrochloric acid, and the mixture was stirred at room temperature for 6 hours. This reaction mixture was concentrated and crystallized from methanol-diethyl ether to provide the title compound.

reactant | 1-tert-butoxycarbonyl-1′-(3-phenylpropan-1-yl)-4,4′-bipiperidine | 8.860 mM, 3.425 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CCN(CC1)CCCC1=CC=CC=C1 | C24H38N2O2
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 1-(3-phenylpropan-1-yl)-4,4′-bipiperidine dihydrochloride | Cl.Cl.C1(=CC=CC=C1)CCCN1CCC(CC1)C1CCNCC1 | InChI=1S/C19H30N2.2ClH/c1-2-5-17(6-3-1)7-4-14-21-15-10-19(11-16-21)18-8-12-20-13-9-18;;/h1-3,5-6,18-20H,4,7-16H2;2*1H
